US06265578B1
To a suspension of NaH (1.02 g of 60% NaH in mineral oil washed with hexanes, 0.61 g, 25.6 mmol) in dry THF (30 mL) was added methyl (4-phenoxyphenyl)acetate (2.7 g, 11.1 mmol ) in dry THF (10 mL). The resulting mixture was stirred at room temperature for 30 minutes and then dimethylcarbonate (4.0 g, 3.75 mL, 44.4 mmol) was added . The reaction mixture was heated to reflux overnight and then cooled to room temperature, quenched with 1N HCl (60 mL), and extracted with ether (2×100 mL). The combined organic extracts were washed with water, then brine, dried (Na2SO4), concentrated, and purified using HPLC (porasil) eluted with 15% EtOAc/hexanes to give 2.56 g of dimethyl 2-(4-phenoxyphenyl)malonate as a white solid: 1H NMR (200 mHz, CDCl3) δ 7.39-6.92 (9H, m), 4.65 (1H, s), 3.75 (6H, s).

reactant | NaH | 25.6 mmol, 1.02 g | [H-].[Na+]
reactant | methyl (4-phenoxyphenyl)acetate | 11.1 mmol, 2.7 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H14O3
reactant | dimethylcarbonate | 44.4 mmol, 3.75 mL, 4.0 g | COC(OC)=O | C3H6O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | dimethyl 2-(4-phenoxyphenyl)malonate | 2.56 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)C(=O)OC | C17H16O5
